US04409214
To a suspension of benzhydryl 7-amino-3-vinyl-3-cephem-4-carboxylate monohydrochloride (2.15 g) in methylene chloride (100 ml) was added 2,6-lutidine (0.54 g) under ice-cooling. To the resultant solution were added 2-(5-tritylamino-1,3,4-thiadiazol-2-yl)acetic acid (2.4 g), N,N-dicyclohexylcarbodiimide (1.03 g), tetrahydrofuran (200 ml) and N,N-dimethylformamide (60 ml), and the mixture was stirred at ambient temperature for a day. Removal of the solvent gave a residue, to which a mixed solvent of ethyl acetate, tetrahydrofuran and water was added. The insoluble substances were removed by filtration, and the filtrate was washed with dilute hydrochloric acid, a saturated aqueous sodium bicarbonate and an aqueous sodium chloride, followed by drying over magnesium sulfate. Removal of the solvent gave a residue, which was washed with diisopropyl ether to obtain benzhydryl 7-[2-(5-tritylamino-1,3,4-thiadiazol-2-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate (2.6 g).

reactant | benzhydryl 7-amino-3-vinyl-3-cephem-4-carboxylate monohydrochloride | 2.15 g | Cl.NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O
reactant | 2,6-lutidine | 0.54 g | N1=C(C=CC=C1C)C | C7H9N
reactant | 2-(5-tritylamino-1,3,4-thiadiazol-2-yl)acetic acid | 2.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC1=NN=C(S1)CC(=O)O | C23H19N3O2S
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | benzhydryl 7-[2-(5-tritylamino-1,3,4-thiadiazol-2-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate | 2.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC1=NN=C(S1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C45H37N5O4S2
